US07342131B2
To a solution of (1R)-1-methyl-2-phenylcarbonyloxyethyl (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propanoate (2.6 g, 4.85 mmol) in 40 mL of tetrahydrafuran was added 200 mg of 10% Pd—C pre-mixed with 10 mL of methanol under a nitrogen atmosphere. The resulting mixture was stirred under hydrogen at room temperature for 2 hrs. After filtration and washing with methanol, the filtrate was concentrated and chromatography of the residue (silica gel, 30% ethyl acetate in hexane) afforded 1.87 g (100%) of (1R)-1-Methyl-2-phenylcarbonyloxyethyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate. MS (ESI) m/z 460.20 (M+H)+ and 458.17 (M−H)−.

reactant | (1R)-1-methyl-2-phenylcarbonyloxyethyl (2S)-2-[(tert-butoxy)carbonylamino]-3-[3,4-bis(phenylmethoxy)phenyl]propanoate | 4.85 mmol, 2.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O[C@@H](COC(=O)C1=CC=CC=C1)C)CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C38H41NO8
catalyst | Pd—C | 200 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (1R)-1-Methyl-2-phenylcarbonyloxyethyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate | 1.87 g, 100% | OC=1C=C(C=CC1O)C[C@@H](C(=O)O[C@@H](COC(=O)C1=CC=CC=C1)C)NC(=O)OC(C)(C)C | C24H29NO8
